US07683076B2
Ethyl 3-(2,6-dinitrophenyl)-2-oxopropanoate
2,6-Dinitrotoluene (10.0 g, 54.9 mmol) and oxalic acid diethylester (16.1 g, 110 mmol) are dissolved in ethanol (100 ml). Sodium ethylate (apx 2.5 N in ethanol, 54.9 mmol) is added, the mixture is stirred at 40° C. for 2 h. The solution is cooled to room temperature, adjusted to pH=3-4 with 2N hydrochloric acid, the solvent is evaporated in vacuo, the residue is partitioned between ethyl acetate and water, the organic layer is washed with water twice, dried over magnesium sulfate, filtered and evaporated. The crude product is purified with column chromatography on silica gel (eluent: cyclohexane/ethyl acetate, 2:1). Yield: 3.15 g (20%), mixture of keto/enol tautomers

reactant | 2,6-Dinitrotoluene | 54.9 mmol, 10.0 g | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])C | C7H6N2O4
reactant | oxalic acid diethylester | 110 mmol, 16.1 g | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | Sodium ethylate | 54.9 mmol, 2.5 N | CC[O-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 3-(2,6-dinitrophenyl)-2-oxopropanoate | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])CC(C(=O)OCC)=O | C11H10N2O7
